* StrongArm-Comparator.
*
* StrongArm latch comparator: clocked tail, differential pair,
* cross-coupled regenerative latch, clocked precharge. The largest
* reference block, and the closest structural neighbour of
* cmp_2stage_clk -- it has the same 17-terminal vdd net and passed
* throughout, which is why device count alone never predicted the
* comparator's failure.
* complexity: 11 MOS, 8 nets, max net degree 17
.lib "{PDK_LIB}" typical
.subckt strongarm vdd vss clk inn inp outn outp
XM1 tail clk vss vss nfet_03v3 L=1u W=2u nf=1 
XM2 d1 inn tail vss nfet_03v3 L=1u W=2u nf=1 
XM3 d2 inp tail vss nfet_03v3 L=1u W=2u nf=1 
XM4 outn outp d1 vss nfet_03v3 L=1u W=2u nf=1 
XM5 outp outn d2 vss nfet_03v3 L=1u W=2u nf=1 
XM6 outn outp vdd vdd pfet_03v3 L=1u W=2u nf=1 
XM7 outp outn vdd vdd pfet_03v3 L=1u W=2u nf=1 
XM8 outn clk vdd vdd pfet_03v3 L=1u W=2u nf=1 
XM9 outp clk vdd vdd pfet_03v3 L=1u W=2u nf=1 
XM10 d1 clk vdd vdd pfet_03v3 L=1u W=2u nf=1 
XM11 d2 clk vdd vdd pfet_03v3 L=1u W=2u nf=1 
.ends
